US05545636
3-[1-(1-Methyl-piperidin-4-yl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-1H-pyrrole-2,5-dione
To an ice cooled solution of 1-(1-methyl-piperidin-4-yl)-1H-indole (38 g, 0.177 mol) in dry ether (1.2 L) was added oxalyl chloride (16.7 mL, 0.195 mol) dropwise at a rate such that the internal temperature does not exceed 5° C. Stirring at 0° to 5° C. is continued for 30 minutes. A yellow precipitate was isolated by suction filtration, washed with ether (800 mL) and suspended in methylene chloride (1.5 L). The solution was recooled to 0° to 5° C. and treated with isopropyl(1-methyl)indol-3-yl)acetimidate hydrochloride (49.6 g, 0.186 mol) in one portion followed by dropwise addition of triethylamine (123 mL, 0.885 mol). The reaction was brought to ambient temperature and stirred for 3 hours. Anhydrous p-toluene sulfonic acid (152.4 g) was added in several portions with external cooling and stirring was continued for 30 minutes. The mixture was poured into saturated aqueous sodium hydrogen carbonate (2 L) and shaken. A bright orange precipitate (32.2 g) formed which was isolated by suction filtration and washed successively with water, dioxane, and ether. A second crop was isolated by evaporation of the mother liquor and trituration with dioxane (9.4 g). Total yield: 41.6 g (54% of theory). M.Pt.: 316°-318° C.

reactant | 1-(1-methyl-piperidin-4-yl)-1H-indole | 0.177 mol, 38 g | CN1CCC(CC1)N1C=CC2=CC=CC=C12 | C14H18N2
reactant | oxalyl chloride | 0.195 mol, 16.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetimidate hydrochloride | 0.186 mol, 49.6 g | Cl.C(C)(O)=N
reactant | triethylamine | 0.885 mol, 123 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonic acid | 152.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | 2 L | C(O)([O-])=O.[Na+]
solvent | ether | 1.2 L | CCOCC | C4H10O
product | 3-[1-(1-Methyl-piperidin-4-yl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-1H-pyrrole-2,5-dione | 32.2 g | CN1CCC(CC1)N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C27H26N4O2
